US07176216B2
N-Cyclopropylmethyl-N-(2-ethyl-7-iodopyrazolo[1,5-a]pyridin-3-yl)-N-tetrahydro-2H-4-pyranylmethylamine hydrochloride
A solution of concentrated hydrochloric acid (48.5 mL, 575 mmol) in isopropanol (270 mL) was added dropwise to a solution of N-cyclopropylmethyl-N-(2-ethyl-7-iodopyrazolo[1,5-a]pyridin-3-yl)-N-tetrahydro-2H-4-pyranylmethylamine (220 g, 501 mmol) in dimethyl carbonate (3600 mL) over a period of 20 minutes at room temperature, and the reaction mixture was stirred for 15 hours at room temperature. The reaction mixture was then cooled in an ice water bath, and dimethyl carbonate (900 mL) was added thereto. After stirring the reaction mixture for about 5 hours, the precipitated solid was collected by filtration and washed with dimethyl carbonate (900 mL). It was then dried under reduced pressure at 50° C. to afford 250 g of the title compound (93.7% yield) as a solvate with dimethyl carbonate and isopropanol.

reactant | hydrochloric acid | 575 mmol, 48.5 mL | Cl | ClH
reactant | N-cyclopropylmethyl-N-(2-ethyl-7-iodopyrazolo[1,5-a]pyridin-3-yl)-N-tetrahydro-2H-4-pyranylmethylamine | 501 mmol, 220 g | C1(CC1)CN(CC1CCOCC1)C=1C(=NN2C1C=CC=C2I)CC | C19H26IN3O
solvent | isopropanol | 270 mL | C(C)(C)O | C3H8O
solvent | dimethyl carbonate | 3600 mL | C(OC)(OC)=O | C3H6O3
solvent | dimethyl carbonate | 900 mL | C(OC)(OC)=O | C3H6O3
product | N-Cyclopropylmethyl-N-(2-ethyl-7-iodopyrazolo[1,5-a]pyridin-3-yl)-N-tetrahydro-2H-4-pyranylmethylamine hydrochloride | 250 g, 93.7% yield | Cl.C1(CC1)CN(CC1CCOCC1)C=1C(=NN2C1C=CC=C2I)CC | InChI=1S/C19H26IN3O.ClH/c1-2-16-19(17-4-3-5-18(20)23(17)21-16)22(12-14-6-7-14)13-15-8-10-24-11-9-15;/h3-5,14-15H,2,6-13H2,1H3;1H
